US07338960B2
3-({4-[(1-{6-[4-(Trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}propanoic acid
To a stirred solution of ethyl 3-{4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}propanoate (92 mg, 0.19 mmol) in THF (3 mL) and methanol (3 mL) was added, drop-wise, aqueous NaOH (2M, 3 mL). After 17 hours the mixture was concentrated under vacuum and the solid residue acidified with aqueous HCl (2M, 3.5 mL), diluted with water (10 mL) and extracted with DCM (2×10 mL). The combined organic layer was washed with brine (20 mL), dried (MgSO4) and concentrated under vacuum. The acid was loaded onto a PE-AX isolute SPE cartridge (pre-conditioned with 1 column volume of methanol) in 9 mL of methanol and a few drops of Et3N. The cartridge was washed with 3 column volumes of methanol followed by 10% aqueous HCl (2M) in methanol (2×5 mL) and 20% aqueous HCl (2M) in methanol (2×5 mL), yielding the title compound (38 mg).

reactant | ethyl 3-{4-[(1-{6-[4-(trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}propanoate | 0.19 mmol, 92 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)OC1=CC=C(C=C1)CCC(=O)OCC)(F)F | C28H30F3NO3
reactant | NaOH | 2M, 3 mL | [OH-].[Na+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
product | {4-[(1-{6-[4-(Trifluoromethyl)phenyl]-2-pyridinyl}pentyl)oxy]phenyl}propanoic acid | 38 mg | FC(C1=CC=C(C=C1)C1=CC=CC(=N1)C(CCCC)OC1=CC=C(C=C1)C(C(=O)O)C)(F)F | C26H26F3NO3
